US09029536B2
C) 3-[4-(Benzyloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine
A mixture of [4-(benzyloxy)phenyl](3-fluoropyridin-2-yl)methanone (3.0 g) and hydrazine hydrate (5.0 mL) in EtOH (90 mL) was refluxed for 4 days. The mixture was concentrated under reduced pressure. The residue was partitioned between water and AcOEt. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (0.83 g).

reactant | [4-(benzyloxy)phenyl](3-fluoropyridin-2-yl)methanone | 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=CC=C1F | C19H14FNO2
reactant | hydrazine hydrate | 5.0 mL | O.NN
solvent | EtOH | 90 mL | CCO | C2H6O
product | 3-[4-(Benzyloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine | 0.83 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC=2C1=NC=CC2 | C19H15N3O
